US05329042
(3R, 4R)-3-carboxy-4-methylcyclopentanone
1.18 g of (3S, 4R)-3-methoxycarbonyl-4-methylcyclopentanone was dissolved in 20 ml of 3N-HCl, and the solution was refluxed for 2 hours. The reaction mixture was allowed to stand to return to room temperature, and concentrated. The residue was concentrated under a reduced pressure, and thus 1.05 g of the titled compound was obtained.

reactant | (3S, 4R)-3-methoxycarbonyl-4-methylcyclopentanone | 1.18 g | COC(=O)[C@H]1CC(C[C@H]1C)=O | C8H12O3
solvent | HCl | Cl | ClH
product | (3R, 4R)-3-carboxy-4-methylcyclopentanone | 1.05 g, Yield: 98.2% | C(=O)(O)[C@@H]1CC(C[C@H]1C)=O | C7H10O3
